datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCSc1nccc([O-:10])[n+]1C.COc1ccc2ccccc2[n+:21]1[H:20]>>CCSc1nccc([O:10][H:20])[n+]1C.COc1ccc2ccccc2[n:21]1 10=20;20,21=21",
"C1CCc2n[n+:21]([H:20])c3c(c2CC1)CCCC3.c1ccc(-c2ccc3n(cc(C[NH+]4CCOCC4)[n:10]3)n2)cc1>>C1CCc2n[n:21]c3c(c2CC1)CCCC3.c1ccc(-c2ccc3n(cc(C[NH+]4CCOCC4)[n+:10]3[H:20])n2)cc1 10=20;20,21=21",
"CCSC(C)(O)[O-:10].Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH:21][H:20]>>CCSC(C)(O)[O:10][H:20].Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH-:21] 10=20;20,21=21",
"CCc1cccc(/N=N/c2ccc([N+:21](C)(C)[H:20])cc2)c1.Nc1nc2ccccc2c[n:10]1>>CCc1cccc(/N=N/c2ccc([N:21](C)C)cc2)c1.Nc1nc2ccccc2c[n+:10]1[H:20] 10=20;20,21=21",
"CCCC[N:10]1CCCCC1C.O=C(c1cccc2ccccc12)[O:21][H:20]>>CCCC[N+:10]1([H:20])CCCCC1C.O=C(c1cccc2ccccc12)[O-:21] 10=20;20,21=21",
"Ic1ccc([NH2+:21][H:20])cc1.Nc1n[nH]c(N)c1/N=N/c1ccc([O-:10])cc1>>Ic1ccc([NH2:21])cc1.Nc1n[nH]c(N)c1/N=N/c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"C[C@@H]1C[C@@H]1C(=O)[O:21][H:20].Cn1cnc2nc([O-])nc([O-:10])c21>>C[C@@H]1C[C@@H]1C(=O)[O-:21].Cn1cnc2nc([O-])nc([O:10][H:20])c21 10=20;20,21=21",
"CC(C)(C)Cc1ccccc1[O:21][H:20].Ic1cccc([O-:10])c1>>CC(C)(C)Cc1ccccc1[O-:21].Ic1cccc([O:10][H:20])c1 10=20;20,21=21",
"C[NH:10]CC(=O)[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C[NH+:10](CC(=O)[O-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"O=[N+]([O-])c1c(Cl)nc[n:21]1[H:20].[O-]N=C1CCCC/C1=N\[O-:10]>>O=[N+]([O-])c1c(Cl)nc[n-:21]1.[O-]N=C1CCCC/C1=N\[O:10][H:20] 10=20;20,21=21",
"CCOCCn1c(N2CCC[N:10](CCCCn3cccn3)CC2)nc2ccccc21.O=S(=O)([O-])c1cc([O:21][H:20])c2cn[nH]c2c1>>CCOCCn1c(N2CCC[N+:10](CCCCn3cccn3)([H:20])CC2)nc2ccccc21.O=S(=O)([O-])c1cc([O-:21])c2cn[nH]c2c1 10=20;20,21=21",
"Nc1ccc(C(=O)[O-:10])cc1.O/C(c1ccoc1)=[O+:21]/[H:20]>>Nc1ccc(C(=O)[O:10][H:20])cc1.OC(c1ccoc1)=[O:21] 10=20;20,21=21",
"Cc1ccc([N+](=O)[O-])c2c(NCCC[NH+](C)C)cc[n:10]c12.Cc1ccc2cccc([O:21][H:20])c2n1>>Cc1ccc([N+](=O)[O-])c2c(NCCC[NH+](C)C)cc[n+:10]([H:20])c12.Cc1ccc2cccc([O-:21])c2n1 10=20;20,21=21",
"CCOc1ccc([NH2:10])cc1.C[NH+](C)CCC[N+:21](=C(c1ccccc1)c1ccccc1Cl)[H:20]>>CCOc1ccc([NH2+:10][H:20])cc1.C[NH+](C)CCC[N:21]=C(c1ccccc1)c1ccccc1Cl 10=20;20,21=21",
"CCCCCC(C)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCCC(C)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCCN>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCCN)[H:20] 10=20;20,21=21",
"Cn1cccc1-c1ccc[n+:21]([H:20])c1.N[n+]1ccccc1[O-:10]>>Cn1cccc1-c1ccc[n:21]c1.N[n+]1ccccc1[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(CNCC[NH2+:21][H:20])cc1.S=C(Nc1ccccc1)[N-:10]C(=S)c1ccccc1>>Cc1ccc(CNCC[NH2:21])cc1.S=C(Nc1ccccc1)[N:10](C(=S)c1ccccc1)[H:20] 10=20;20,21=21",
"C/C=C/CCC(=O)[O-:10].S=C(c1cccc(Br)c1)[N:21](c1ccc(Cl)c(Cl)c1)[H:20]>>C/C=C/CCC(=O)[O:10][H:20].S=C(c1cccc(Br)c1)[N-:21]c1ccc(Cl)c(Cl)c1 10=20;20,21=21",
"C[C@@H]1C[NH:10][C@@H](C)CN1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C[C@@H]1C[NH+:10]([H:20])[C@@H](C)CN1.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC1(C)[C@@H](N)[C@@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC1(C)[C@@H](N)[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)[NH2+]CCCCCC[NH:10]C(C)C.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)[NH2+]CCCCCC[NH+:10](C(C)C)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"Brc1ccc([O:21][H:20])cc1.COc1ccc(C(=O)[O-:10])c(C)c1>>Brc1ccc([O-:21])cc1.COc1ccc(C(=O)[O:10][H:20])c(C)c1 10=20;20,21=21",
"CC1CCC[N+:21](C(C)C=C(c2cccs2)c2cccs2)([H:20])C1.COC(=O)c1ccccc1[S-:10]>>CC1CCC[N:21](C(C)C=C(c2cccs2)c2cccs2)C1.COC(=O)c1ccccc1[S:10][H:20] 10=20;20,21=21",
"CC(C)[N:10](CCc1ccccc1)CCc1ccccc1.CC[NH+](CC)CCCNC(=O)/C=N/[O:21][H:20]>>CC(C)[N+:10](CCc1ccccc1)(CCc1ccccc1)[H:20].CC[NH+](CC)CCCNC(=O)/C=N/[O-:21] 10=20;20,21=21",
"CC(C)C1=C(Br)C=CC(=O)C([O-:10])=C1.Clc1ccc(CNc2nc[n+:21]([H:20])c3[nH]ncc23)cc1>>CC(C)C1=C(Br)C=CC(=O)C([O:10][H:20])=C1.Clc1ccc(CNc2nc[n:21]c3[nH]ncc23)cc1 10=20;20,21=21",
"CN1C(=S)[N-:10]c2cncnc21.O=C(/C(=N/[O:21][H:20])c1ccccc1)c1ccccc1>>CN1C(=S)[N:10]([H:20])c2cncnc21.O=C(/C(=N/[O-:21])c1ccccc1)c1ccccc1 10=20;20,21=21",
"C=Cc1cccc[n+:21]1[H:20].[O-]c1cc([O-:10])cc[nH+]1>>C=Cc1cccc[n:21]1.[O-]c1cc([O:10][H:20])cc[nH+]1 10=20;20,21=21",
"CN1c2ccccc2Nc2ccc([O-:10])cc21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN1c2ccccc2Nc2ccc([O:10][H:20])cc21.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C1CNCCNCC[NH:10]C1.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1CNCCNCC[NH+:10]([H:20])C1.N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC[N+:21](CC)(C(C)(C)C=O)[H:20].c1ccc(-c2ccc3ccc4cccnc4c3[n:10]2)cc1>>CC[N:21](CC)C(C)(C)C=O.c1ccc(-c2ccc3ccc4cccnc4c3[n+:10]2[H:20])cc1 10=20;20,21=21",
"Cn1c[n+:21]([H:20])cc1CC(NC(=O)CC[NH3+])C(=O)[O-].[NH3+]C(Cc1nc[n-:10]n1)C(=O)[O-]>>Cn1c[n:21]cc1CC(NC(=O)CC[NH3+])C(=O)[O-].[NH3+]C(Cc1nc[n:10]([H:20])n1)C(=O)[O-] 10=20;20,21=21",
